US04661145
(A) 1-(4-Carboxyphenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic Acid
To an ice cooled suspension of 11.33 g (0.075 mol) 4-carbomethoxy aniline in 40 ml of water there is added 30 ml of 12N hydrochloric acid. The suspension is cooled to 0° C. and to it there is added 5.7 g (0.0825 mol) of sodium nitrite in 15 ml of water, dropwise. The solution formed is added to an ice cooled solution of 9.45 g (0.075 mol) 4-hydroxy-6-methyl pyr-2-one and 33 g (0.3075 mol) of sodium carbonate in 190 ml of water (considerable foaming is observed). The suspension is stirred at 5° C. for 1 hr., room temperature for 2 hrs. And refluxed for 1/2 hr. The solution formed is allowed to stand at room temperature for 18 hrs. and is extracted with 3 (200 ml) portions of methylene dichloride. The aqueous solution is acidified with 12N hydrochloric acid at 10° C. and the suspension formed is vacuum filtered. The filter cake is boiled in 300 ml of methanol and vacuum filtered hot. The filter cake is air dried to afford 13.1 g (64% yield) of product, mp 290° C. decomp.

reactant | 4-carbomethoxy aniline | 0.075 mol, 11.33 g | C(=O)(OC)C1=CC=C(N)C=C1 | C8H9NO2
reactant | hydrochloric acid | 12N, 30 ml | Cl | ClH
reactant | sodium nitrite | 0.0825 mol, 5.7 g | N(=O)[O-].[Na+]
reactant | 4-hydroxy-6-methyl pyr-2-one | 0.075 mol, 9.45 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | sodium carbonate | 0.3075 mol, 33 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 40 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | water | 190 ml | O | H2O
product | 1-(4-Carboxyphenyl)-1,4-dihydro-4-oxo-6-methylpyridazine-3-carboxylic Acid | 13.1 g, 64% yield | C(=O)(O)C1=CC=C(C=C1)N1N=C(C(C=C1C)=O)C(=O)O | C13H10N2O5
